US07902369B2
1) Manufacture of trifluoromethanesulfonate 6-methyl-5-oxo-5,6,7,8-tetrahydro-naphthalene-2-ylester
Under nitrogen atmosphere, 200 mg of trifluoromethanesulfonate 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-ylester was dissolved in 3 ml of dimethylformamide. 54 mg of 60% sodium hydroxide and 1.0 ml of methyl iodide were added and the mixture was stirred at room temperature for 2 hours. Water was added to the reaction solution, extracted with ethyl acetate. Ethyl acetate layer was washed with saturated saline solution, and dried with anhydrous sodium sulfate. The solvents were distilled outunder reduced pressure, and the residues were separated and purified by preparative thin-layer chromatography (ethyl acetate/hexane=1/2) to obtain 42 mg of the above compound as a yellow oily matter.

reactant | trifluoromethanesulfonate 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-ylester | 200 mg | O=C1C=2C=CC(=CC2CCC1)OS(=O)(=O)C(F)(F)F | C11H9F3O4S
reactant | sodium hydroxide | 54 mg | [OH-].[Na+]
reactant | methyl iodide | 1.0 ml | CI | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | trifluoromethanesulfonate 6-methyl-5-oxo-5,6,7,8-tetrahydro-naphthalene-2-ylester | 42 mg | CC1C(C=2C=CC(=CC2CC1)OS(=O)(=O)C(F)(F)F)=O | C12H11F3O4S
